US08048887B2
5-(5-(1-(1H-Tetrazol-5-yl)cyclopropylcarbamoyl)-2-methylphenyl)-2-(4-fluorophenyl)-N-methylbenzo furan-3-carboxamide
To a mixture of 5-(5-(1-cyanocyclopropylcarbamoyl)-2-methylphenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (25.1 mg, 0.054 mmol) in DMF (1 mL) at r.t. under N2 was added ammonium chloride (8.62 mg, 0.161 mmol), and then sodium azide (6.98 mg, 0.107 mmol). The mixture was stirred at 120° C. for about 4 hours. The mixture was cooled to r.t., and added with another 18 mg of NH4Cl and then 14 mg of NaN3. The mixture was stirred at 120° C. for 14.5 hours. The mixture was cooled to r.t., and added with another 26 mg of NH4Cl, followed by 21 mg of NaN3. The mixture was re-stirred at 120° C. for 24 hours. The mixture was cooled to r.t., and diluted with MeOH and purified by Shimadzu-VP preparative reverse phase HPLC using the separation method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=10 min, Stop time=12 min, Flow Rate=25 mL/min, Column: Waters-Sunfire 19×100 mm S5, Fraction Collection: 6.82-7.27 min. (UV detection at 220 nm). 1H NMR (500 MHz, CD3OD) δ 7.97 (m, J=9.00, 5.34, 2H), 7.85 (d, J=1.22, 1H), 7.84 (dd overlapping with d, J=1.83, 1H), 7.67 (d, J=8.24, 1H), 7.65 (d, J=1.22, 1H), 7.45 (d, J=7.63, 1H), 7.39 (dd, J=8.55, 1.83, 1H), 7.29 (t, J=8.85, 2H), 2.95 (s, 3H), 2.36 (s, 3H), 1.70 (m, 2H), 1.58 (m, 2H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=4 ml/min, Column: XTERRA® MS 7 um, C18, 3.0×50 mm; (ES+) m/z (M+H)+=511.28, HPLC Rt=1.595 min. Analytical HPLC were performed by using Shimadzu-VP instrument with UV detection at 220 nm and 254 nm. Analytical HPLC method: Solvent A=5% MeCN-95% H2O-0.1% TFA, Solvent B=95% MeCN-5% H2O-0.1% TFA, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: Sunfire C18, 3.5 um, 4.6×150 mm, Rt=5.10 min; XBridge phenyl 3.5 um, 4.6×150 mm, Rt=4.23 min. Analytical HPLC method: Solvent A=5% MeOH-95% H2O-10 mM NH4HCO3, Solvent B=95% MeOH-5% H2O-10 mM NH4HCO3, Start % B=50, Final % B=100, Gradient time=15 min, Stop time=18 min, Flow Rate=1 ml/min, Column: XBridge phenyl 3, Rt=10.58 min.

reactant | 5-(5-(1-cyanocyclopropylcarbamoyl)-2-methylphenyl)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.054 mmol, 25.1 mg | C(#N)C1(CC1)NC(=O)C=1C=CC(=C(C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C | C28H22FN3O3
reactant | ammonium chloride | 0.161 mmol, 8.62 mg | [Cl-].[NH4+]
reactant | sodium azide | 0.107 mmol, 6.98 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 18 mg | [NH4+].[Cl-]
reactant | NaN3 | 14 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 26 mg | [NH4+].[Cl-]
reactant | NaN3 | 21 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 5-(5-(1-(1H-Tetrazol-5-yl)cyclopropylcarbamoyl)-2-methylphenyl)-2-(4-fluorophenyl)-N-methylbenzo furan-3-carboxamide | N1N=NN=C1C1(CC1)NC(=O)C=1C=CC(=C(C1)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)C | C28H23FN6O3
